US07335658B2
SYNTHESIS OF 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-HYDROXYETHYL)AMIDE
To the solution of 6-chloropyridazine-3-carboxylic acid (375 mg, 2.37 mmol) in 5 mL of dioxane was added thionyl chloride (420 mg, 3.56 mmol). The mixture was refluxed for 4 hours and the solvent was removed in vacuo. 2-Amino-1-cyclopropylethanol (479 mg, 4.73 mmol) in 5 mL of dioxane was added to the residue and followed by the addition of triethylamine (0.2 mL). The mixture was stirred at ambient temperature overnight. Water was added to the mixture and then extracted with ethyl acetate. The organic extract was separated, washed with water and brine; dried over Na2SO4. The residue after removal of solvent was purified by column chromatography eluted with ethyl acetate:hexane (70:30) to yield 58 mg of the white desired product.

reactant | 6-chloropyridazine-3-carboxylic acid | 2.37 mmol, 375 mg | ClC1=CC=C(N=N1)C(=O)O | C5H3ClN2O2
reactant | thionyl chloride | 3.56 mmol, 420 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Amino-1-cyclopropylethanol | 4.73 mmol, 479 mg | NCC(O)C1CC1 | C5H11NO
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 6-CHLOROPYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYL-2-HYDROXYETHYL)AMIDE | 58 mg | C1(CC1)C(CNC(=O)C=1N=NC(=CC1)Cl)O | C10H12ClN3O2
